Data/regression/rad6re/fold_0/aam_train.csv
AAM,dh
[C:1].[C:2][C:3]([H:4])([H:5])[C:6]([H:7])([C:8]([H:9])([H:10])[H:11])[C:12]([H:13])([H:14])[H:15]>>[C:1]#[C:2][C:3]([H:4])([H:5])[C:6]([H:7])([C:8]([H:9])([H:10])[H:11])[C:12]([H:13])([H:14])[H:15],-7.341758756669999
[C:2]#[C:3][C:4]([H:5])[C:6]([H:7])=[C:8][H:9].[O:1]>>[O:1]=[C:2]=[C:3][C:4]([H:5])[C:6]([H:7])=[C:8][H:9],-7.23401727768
[H:1][O:2]/[C:3]([H:4])=[C:5]/[O:6][C:7]([H:8])([H:9])[H:10]>>[C:3]([H:4])#[C:5][O:6][C:7]([H:8])([H:9])[H:10].[H:1][O:2],3.24217100575
[H:1][C:2]=[C:3]([H:4])[O:6][C:7][O:8][C:9]([H:10])([H:11])[H:12].[H:5]>>[H:1][C:2][C:3]([H:4])([H:5])[O:6][C:7][O:8][C:9]([H:10])([H:11])[H:12],-1.61024322325
[H:1][O:2][C:3][O:12][C:9]([C:6]([C:4][H:5])([H:7])[H:8])([H:10])[H:11]>>[H:1][O:2][C:3]1=[C:4]([H:5])[C:6]([H:7])([H:8])[C:9]([H:10])([H:11])[O:12]1,-5.40186234146
[H:1][C:2]([H:3])[O:4][C:5]([H:6])([H:7])[C:8]#[C:10][C:11]([H:12])([H:13])[H:14].[H:9]>>[H:1][C:2]([H:3])[O:4][C:5]([H:6])([H:7])/[C:8]([H:9])=[C:10]/[C:11]([H:12])([H:13])[H:14],-1.95191162688
[O:1]=[C:2][C:3]([H:4])([H:5])[C:6]([H:7])=[C:8][H:9]>>[H:7].[O:1]=[C:2][C:3]([H:4])([H:5])[C:6]#[C:8][H:9],1.86170982402
[H:1][O:2][C:3]([H:4])([H:5])/[C:6]=[C:7](\[H:8])[O:10][C:11]([H:12])([H:13])[H:14].[H:9]>>[H:1][O:2][C:3]([H:4])([H:5])[C:6][C:7]([H:8])([H:9])[O:10][C:11]([H:12])([H:13])[H:14],-1.76501632417
[C:4]([C:5]([H:6])([H:7])[H:8])[C:9]([H:10])([H:11])[O:12][C:13]([H:14])([H:15])[H:16].[H:1][C:2][H:3]>>[H:1][C:2]([H:3])=[C:4]([C:5]([H:6])([H:7])[H:8])[C:9]([H:10])([H:11])[O:12][C:13]([H:14])([H:15])[H:16],-8.39943183
[H:1][C:2][O:3][C:4]([H:5])([H:6])[C:7](=[C:8]([H:9])[H:10])[C:11]([H:12])([H:13])[H:14]>>[H:10].[H:1][C:2][O:3][C:4]([H:5])([H:6])[C:7](=[C:8][H:9])[C:11]([H:12])([H:13])[H:14],5.01484122295
[H:1][C:2]1=[C:3]([H:4])[O:5][C:6][O:7][C:8]1>>[H:1][C:2]#[C:8][O:7][C:6][O:5][C:3][H:4],2.90544081292
[C:12]([H:13])([H:14])[H:15].[H:1][O:2][C:3]([H:4])([H:5])[O:6][C:7]([H:8])=[C:9]([H:10])[H:11]>>[H:1][O:2][C:3]([H:4])([H:5])[O:6][C:7]([H:8])[C:9]([H:10])([H:11])[C:12]([H:13])([H:14])[H:15],-1.623284938
[H:1][O:2][C@@:3]([H:4])([C:5]([H:6])[H:7])[C:9]([H:10])([H:11])[C:12]([H:13])=[C:14]([H:15])[H:16].[H:8]>>[H:1][O:2][C@:3]([H:4])([C:5]([H:6])([H:7])[H:8])[C:9]([H:10])([H:11])[C:12]([H:13])=[C:14]([H:15])[H:16],-4.582822809930001
[H:1][C:2]#[C:3][O:5][C:6][C:7]([H:8])=[C:9]([H:10])[H:11].[H:4]>>[H:1][C:2]=[C:3]([H:4])[O:5][C:6][C:7]([H:8])=[C:9]([H:10])[H:11],-2.45933879571
[C:1][C:2]([H:3])([H:4])[O:5][C:6]([H:7])([H:8])[O:9][H:10]>>[C:1].[C:2]([H:3])([H:4])[O:5][C:6]([H:7])([H:8])[O:9][H:10],3.44298230541
[H:1][C:2]([H:3])[C:4]([H:5])([H:6])[C:7][O:8][C:9]([H:10])[H:11]>>[H:1][C:2]([H:3])[C:4]([H:5])([H:6])[C:7]1[O:8][C:9]1([H:10])[H:11],-1.70940841
[H:1][O:2][C:3]([H:4])[C:5]([H:6])([H:7])[O:8][C:9]([H:10])([H:11])[H:12]>>[C:3]([H:4])[C:5]([H:6])([H:7])[O:8][C:9]([H:10])([H:11])[H:12].[H:1][O:2],6.323153949069999
[C:1]#[C:2][C:3]([H:4])[C:5][O:6][H:7].[C:8]([H:9])([H:10])[H:11]>>[C:1]=[C:2](/[C:3]([H:4])=[C:5]/[O:6][H:7])[C:8]([H:9])([H:10])[H:11],-3.1197583631800003
[C:4][O:5][C:6]([H:7])=[C:8]([H:9])[H:10].[H:1][O:2][C:3]>>[H:1][O:2][C:3]#[C:4][O:5][C:6]([H:7])=[C:8]([H:9])[H:10],-5.02550869005
[C:10]([H:11])([H:12])[C:13]([H:14])([H:15])[H:16].[H:1][C:2]([H:3])=[C:4]([H:5])[C:6]([H:7])([H:8])[O:9]>>[H:1][C:2]([H:3])=[C:4]([H:5])[C:6]([H:7])([H:8])[O:9][C:10]([H:11])([H:12])[C:13]([H:14])([H:15])[H:16],-3.74763311684
[H:11].[H:1][O:2]/[C:3](=[C:4]\[C:5]([H:6])([H:7])[H:8])[C:9]([H:10])=[C:12]([H:13])[H:14]>>[H:1][O:2]/[C:3](=[C:4]\[C:5]([H:6])([H:7])[H:8])[C:9]([H:10])([H:11])[C:12]([H:13])[H:14],-1.61609230505
[C:9](=[C:10]([H:11])[H:12])[C:13]([H:14])([H:15])[H:16].[H:1][C:2]([H:3])=[C:4]([H:5])[C:6]([H:7])[H:8]>>[H:1][C:2]([H:3])=[C:4]([H:5])[C:6]([H:7])([H:8])[C:9](=[C:10]([H:11])[H:12])[C:13]([H:14])([H:15])[H:16],-4.3786653821
[O:1]=[C:2][C:3]([H:4])([H:5])[O:6][C:7][C:8]([H:9])([H:10])[H:11]>>[H:11].[O:1]=[C:2][C:3]([H:4])([H:5])[O:6][C:7]=[C:8]([H:9])[H:10],3.03272432298
[H:1][C:2]([H:3])([H:4])[C:5]([H:6])([H:7])[C:8]1[C:9]([H:10])([H:11])[C:12]([H:13])([H:14])[C:15]1([H:16])[H:17]>>[H:1][C:2]([H:3])([H:4])[C:5]([H:6])([H:7])[C:8]([C:9]([H:10])([H:11])[C:12]([H:13])[H:14])=[C:15]([H:16])[H:17],0.159708234641
[O:1]=[C:2][C:3]([H:4])([H:5])[C:6]([H:7])([H:8])[C:9]=[C:10]([H:11])[H:12]>>[H:12].[O:1]=[C:2][C:3]([H:4])([H:5])[C:6]([H:7])([H:8])[C:9]#[C:10][H:11],1.95431265221
[H:1][C:2]([H:3])[C:4]([O:5][C:6][C:7]([H:8])([H:9])[H:10])=[C:11]([H:12])[H:13]>>[C:4]([O:5][C:6][C:7]([H:8])([H:9])[H:10])=[C:11]([H:12])[H:13].[H:1][C:2][H:3],5.87428310674
[H:11].[O:1][O:2][C:3]#[C:4][C:5]([H:6])([H:7])[C:8]([H:9])[H:10]>>[O:1][O:2][C:3]#[C:4][C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[H:11],-4.62091587328
[H:1][C:2]#[C:3][C:4]([H:5])([H:6])[O:7][H:8]>>[C:4]([H:5])([H:6])[O:7][H:8].[H:1][C:2]#[C:3],5.29431598155
[C:9]([H:10])[H:11].[O:1]=[C:2]([C:3]([H:4])[H:5])[C:6]([H:7])=[O:8]>>[O:1]=[C:2]([C:3]([H:4])[H:5])[C:6]([H:7])[O:8][C:9]([H:10])[H:11],-3.15581437313
